US07884124B2
2.7. Synthesis of methyl 6-bromo-4H-furo[3,2-b]pyrrole-5-carboxylate
To a cold solution (ice-water bath) of methyl 4H-furo[3,2-b]pyrrole-5-carboxylate (1.0 g, 6.05 mmol) in DCM (10 mL) was added TBAF (1.0 M in THF, 9.0 mL, 9.0 mmol) and NBS (1.5 g, 7.9 mmol). The resulting dark colored solution was stirred from 0° C. to rt overnight. The reaction mixture was diluted with 50 mL of CH2Cl2 and washed with water (100 mL) and brine (100 mL) and dried (Na2SO4). After filtration, the filtrate was concentrated by evaporation and the crude product was purified by silica gel chromatography (0-5% EtOAc/hexane) to afford a white solid. 1H NMR (400 MHz, CDCl3) δ (ppm) 8.84 (broad, 1H, NH), 7.54 (d, J=2.2 Hz, 1H), 6.48 (d, J=1.83 Hz, 1H), 3.92 (s, 3H) ppm; m+/z 244 (100%), 246 (100%).

reactant | methyl 4H-furo[3,2-b]pyrrole-5-carboxylate | 6.05 mmol, 1.0 g | O1C=CC=2NC(=CC21)C(=O)OC | C8H7NO3
reactant | TBAF | 9.0 mmol, 1.0 M, 9.0 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | NBS | 7.9 mmol, 1.5 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | methyl 6-bromo-4H-furo[3,2-b]pyrrole-5-carboxylate | BrC=1C2=C(NC1C(=O)OC)C=CO2 | C8H6BrNO3
